datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"N[C@H]1C[C@@H]2CCCC[C@H]2C[C@H]1[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>N[C@H]1C[C@@H]2CCCC[C@H]2C[C@H]1[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(O)C[N:10](C)CCO.Cc1cccc(Cl)c1C(=O)[O:21][H:20]>>CCC(O)C[N+:10](C)(CCO)[H:20].Cc1cccc(Cl)c1C(=O)[O-:21] 10=20;20,21=21",
"CC[N+:21](CC)(c1ccc(C)cc1)[H:20].NCC[NH2:10]>>CC[N:21](CC)c1ccc(C)cc1.NCC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cc(C)[n+:21]([H:20])c(C)c1CO.Cc1ccc(C(=S)[N-:10]c2cccc(F)c2)cc1>>Cc1cc(C)[n:21]c(C)c1CO.Cc1ccc(C(=S)[N:10](c2cccc(F)c2)[H:20])cc1 10=20;20,21=21",
"CN(C)CC[N+:21](C)(CCN(C)C)[H:20].Cc1cc[n:10]c(N)n1>>CN(C)CC[N:21](C)CCN(C)C.Cc1cc[n+:10]([H:20])c(N)n1 10=20;20,21=21",
"NCC(=O)C[NH2+:21][H:20].c1cc(C2CCCCN2)c[n:10]c1>>NCC(=O)C[NH2:21].c1cc(C2CCCCN2)c[n+:10]([H:20])c1 10=20;20,21=21",
"CN1CC[NH:10]CC1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CN1CC[NH+:10]([H:20])CC1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C1CCC(=[NH+:21][H:20])C1.O=C(/C=C\c1ccc(O)cc1)[O-:10]>>C1CCC(=[NH:21])C1.O=C(/C=C\c1ccc(O)cc1)[O:10][H:20] 10=20;20,21=21",
"CC(C(=O)c1ccc([O-:10])cc1)[NH+](C)Cc1ccccc1.CC[NH2+:21][H:20]>>CC(C(=O)c1ccc([O:10][H:20])cc1)[NH+](C)Cc1ccccc1.CC[NH2:21] 10=20;20,21=21",
"CCC(=O)C(CC(C)[N:10]1CCCCC1)(c1ccccc1)c1ccccc1.O=C(C[C@]1(O)C[C@H]2C=C[C@@H]1C2)[O:21][H:20]>>CCC(=O)C(CC(C)[N+:10]1([H:20])CCCCC1)(c1ccccc1)c1ccccc1.O=C(C[C@]1(O)C[C@H]2C=C[C@@H]1C2)[O-:21] 10=20;20,21=21",
"COc1ccccc1[NH2+:21][H:20].Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n:10]c1C>>COc1ccccc1[NH2:21].Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n+:10]([H:20])c1C 10=20;20,21=21",
"CCNc1cc[n+:21]([H:20])c([S-])n1.CC[O-:10]>>CCNc1cc[n:21]c([S-])n1.CC[O:10][H:20] 10=20;20,21=21",
"CCc1cc[n+:21]([H:20])cc1.c1ncc2c(n1)nn[n-:10]2>>CCc1cc[n:21]cc1.c1ncc2c(n1)nn[n:10]2[H:20] 10=20;20,21=21",
"CCCCNCCCCCC[NH:10]CCCC.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCCNCCCCCC[NH+:10](CCCC)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"N[C@H]1CCCC[C@@H]1[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>N[C@H]1CCCC[C@@H]1[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])CCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CO[C@H]1CC=C2CC[N:10]3CCC(CO)=C(CCO)[C@]23C1.Cc1ccc2c(c1)c1c3n2CC[N+:21]([H:20])=C3CCC1>>CO[C@H]1CC=C2CC[N+:10]3([H:20])CCC(CO)=C(CCO)[C@]23C1.Cc1ccc2c(c1)c1c3n2CC[N:21]=C3CCC1 10=20;20,21=21",
"CC(C)(C#N)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)(C#N)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCC1C[N+:21]1(CC)[H:20].c1ccc(-c2nn[n-:10]n2)cc1>>CCC1C[N:21]1CC.c1ccc(-c2nn[n:10]([H:20])n2)cc1 10=20;20,21=21",
"COc1ccc[n+:21]([H:20])c1C=O.O=C(CC[N:10]1CCOCC1)c1ccccc1>>COc1ccc[n:21]c1C=O.O=C(CC[N+:10]1([H:20])CCOCC1)c1ccccc1 10=20;20,21=21",
"N#CC1=C(c2nc3ccccc3s2)C(=O)Oc2cc([O-:10])ccc21.[NH3+]CCCCCCC(=O)[O:21][H:20]>>N#CC1=C(c2nc3ccccc3s2)C(=O)Oc2cc([O:10][H:20])ccc21.[NH3+]CCCCCCC(=O)[O-:21] 10=20;20,21=21",
"C[NH:10]O.OCn1c[n+:21]([H:20])c2ccccc21>>C[NH+:10](O)[H:20].OCn1c[n:21]c2ccccc21 10=20;20,21=21",
"O=C([O-])CCCCCCCCCC[NH2+:21][H:20].O=C1CCC([O-])=C1[O-:10]>>O=C([O-])CCCCCCCCCC[NH2:21].O=C1CCC([O-])=C1[O:10][H:20] 10=20;20,21=21",
"CCCc1c(-c2ccccc2)n[nH]c1[O-:10].CCOc1ccc([O:21][H:20])cc1>>CCCc1c(-c2ccccc2)n[nH]c1[O:10][H:20].CCOc1ccc([O-:21])cc1 10=20;20,21=21",
"O=C([O-])C(CO)[NH:10]Cc1cc([N+](=O)[O-])ccc1[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C(CO)[NH+:10](Cc1cc([N+](=O)[O-])ccc1[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])CCC#CC#CCCCC[NH2:10].O=C(c1cscn1)[O:21][H:20]>>O=C([O-])CCC#CC#CCCCC[NH2+:10][H:20].O=C(c1cscn1)[O-:21] 10=20;20,21=21",
"N#C/C(=N\[O-:10])C(N)=O.c1ccc2c(c1)nn[n:21]2[H:20]>>N#C/C(=N\[O:10][H:20])C(N)=O.c1ccc2c(c1)nn[n-:21]2 10=20;20,21=21",
"O=[N+]([O-])c1cc(Cl)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1cc(Cl)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CS/C(N)=[NH+:21]/[H:20].[O-]c1cccc2c1-c1cccc([O-:10])c1-2>>CSC(N)=[NH:21].[O-]c1cccc2c1-c1cccc([O:10][H:20])c1-2 10=20;20,21=21",
"COc1c[n:10]ccn1.COc1ccc([NH2+:21][H:20])cc1Br>>COc1c[n+:10]([H:20])ccn1.COc1ccc([NH2:21])cc1Br 10=20;20,21=21",
"C[N+:21](C)(CCC/N=C(\c1ccccc1)c1ccccc1Cl)[H:20].[O-]c1c2nc[nH]c2nc[n:10]1>>C[N:21](C)CCC/N=C(\c1ccccc1)c1ccccc1Cl.[O-]c1c2nc[nH]c2nc[n+:10]1[H:20] 10=20;20,21=21",
"COc1ccc(CC(C)[NH:10]C)cc1OC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>COc1ccc(CC(C)[NH+:10](C)[H:20])cc1OC.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=C(CCO)SSCCC(C)C)N(C=O)Cc1c[n:10]c(C)nc1N.NC1=[NH+]C(CC(=O)[O:21][H:20])C(=O)N1CCCC([NH3+])C(=O)[O-]>>CC(=C(CCO)SSCCC(C)C)N(C=O)Cc1c[n+:10]([H:20])c(C)nc1N.NC1=[NH+]C(CC(=O)[O-:21])C(=O)N1CCCC([NH3+])C(=O)[O-] 10=20;20,21=21",
